US08865698B2
To a methanol (1 mL) solution of (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-4-methylpiperazine-1-carboxamide was added HCl as a solution is dioxane (30 μL). After 30 minutes, the reaction was concentrated to provide (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-4-methylpiperazine-1-carboxamide hydrochloride as a yellow solid.

reactant | methanol | 1 mL | CO | CH4O
reactant | (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-4-methylpiperazine-1-carboxamide | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)N2CCN(CC2)C | C22H25F2N7O
reactant | HCl | Cl | ClH
solvent | dioxane | 30 μL | O1CCOCC1 | C4H8O2
product | (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-4-methylpiperazine-1-carboxamide hydrochloride | Cl.FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)N2CCN(CC2)C | InChI=1S/C22H25F2N7O.ClH/c1-28-9-11-29(12-10-28)22(32)26-18-14-25-31-8-6-20(27-21(18)31)30-7-2-3-19(30)16-13-15(23)4-5-17(16)24;/h4-6,8,13-14,19H,2-3,7,9-12H2,1H3,(H,26,32);1H/t19-;/m1./s1
